US05514679
To a solution of 13.04 g (0.118 mol) of 2-propylfuran in 800 mL of ether cooled at 0° C. with stirring under nitrogen was added dropwise 52 mL (0.130 mol) of 2.5 M n-butyllithium. The reaction mixture was allowed to warm to room temperature and then refluxed for 40 min. The reaction mixture was cooled to -60° C. 10.1 mL (0.130 mol) of DMF in 10 mL of ether was added, and the resulting mixture was stirred at -60° C. for 45 min, and warmed to room temperature. The above mixture was quenched with 10 mL of saturated aqueous ammonium chloride, diluted with water to form a clear aqueous layer, and the organic layer was washed with water, and brine. The organic layer was dried over anhydrous magnesium sulfate, treated with a small amount of a charcoal, filtered, and concentrated to yield 13.95 g of a crude oil. The kughelrohr distillation of this oil (75°-105° C.) afforded 10.5 g (64.5 %) of 5-propyl-2-furancarboxaldehyde.

reactant | 2-propylfuran | 0.118 mol, 13.04 g | C(CC)C=1OC=CC1 | C7H10O
reactant | n-butyllithium | 0.130 mol, 2.5 M, 52 mL | C(CCC)[Li]
reactant | DMF | 0.130 mol, 10.1 mL | CN(C)C=O | C3H7NO
solvent | ether | 800 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 5-propyl-2-furancarboxaldehyde | 10.5 g, 64.5 % | C(CC)C1=CC=C(O1)C=O | C8H10O2
